US05843957
Preparation of N-[1-methyl-4-(2-chlorophenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,4-difluorophenyl)urea
A solution of 1-methyl-4-(2-chlorophenyl)-1,2-dihydro-2-oxo-1,8-naphthyridine-3-carboxylic acid (315 mg, 1 mmol), diphenylphosphoryl azide (330 mg, 1.2 mmol) and triethylamine (101 mg, 1 mmol) in benzene (4 ml) was stirred at room temperature for 0.5 hour, and then refluxed for 0.5 hour. After allowed to stand for cooling, to the mixture was added 2,4-difluoroaniline (152 mg, 1.2 mmol), and the mixture was stirred at room temperature for 0.5 hour, and then stirred under reflux for two hours. After allowed to stand for cooling, the mixture was washed with water, washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting solid was recrystallized from isopropanol to give the title compound (288 mg, 0.65 mmol) as a colorless crystal.

reactant | 1-methyl-4-(2-chlorophenyl)-1,2-dihydro-2-oxo-1,8-naphthyridine-3-carboxylic acid | 1 mmol, 315 mg | CN1C(C(=C(C2=CC=CN=C12)C1=C(C=CC=C1)Cl)C(=O)O)=O | C16H11ClN2O3
reactant | diphenylphosphoryl azide | 1.2 mmol, 330 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 1 mmol, 101 mg | C(C)N(CC)CC | C6H15N
reactant | 2,4-difluoroaniline | 1.2 mmol, 152 mg | FC1=C(N)C=CC(=C1)F | C6H5F2N
solvent | benzene | 4 ml | C1=CC=CC=C1 | C6H6
product | N-[1-methyl-4-(2-chlorophenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3-yl]-N'-(2,4-difluorophenyl)urea | 0.65 mmol, 288 mg | CN1C(C(=C(C2=CC=CN=C12)C1=C(C=CC=C1)Cl)NC(=O)NC1=C(C=C(C=C1)F)F)=O | C22H15ClF2N4O2
